US04962115
A mixture of 3.8 parts of 3-(2-chloroethyl)-2(1H), 4(3H)-quinazolinedione, 4.7 parts of cis-4-amino-5-chloro-2-methoxy-N-(3-methoxy-4-piperidinyl)benzamide, 1.7 parts of sodium hydrogen carbonate, 0.1 parts of potassium iodide and 160 parts of 4-methyl-2-pentanone was stirred and refluxed for 24 hours. Water was added to the reaction mixture. The precipitated product was filtered off and crystallized from N,N-dimethylformamide and a small amount of water, yielding 3.3 parts of cis-4-amino-5-chloro-N-[1-[2-(1,4-dihydro-2,4-dioxo-3(2H)-quinazolinyl)ethyl]-3-methoxy-4-piperidiny]-2-methoxybenzamide; mp. 270.8° C. (compound 142).

reactant | 3-(2-chloroethyl)-2(1H), 4(3H)-quinazolinedione | ClCCN1C(NC2=CC=CC=C2C1=O)=O | C10H9ClN2O2
reactant | cis-4-amino-5-chloro-2-methoxy-N-(3-methoxy-4-piperidinyl)benzamide | NC1=CC(=C(C(=O)N[C@@H]2[C@@H](CNCC2)OC)C=C1Cl)OC | C14H20ClN3O3
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | potassium iodide | [I-].[K+]
solvent | Water | O | H2O
solvent | 4-methyl-2-pentanone | CC(CC(C)=O)C | C6H12O
product | cis-4-amino-5-chloro-N-[1-[2-(1,4-dihydro-2,4-dioxo-3(2H)-quinazolinyl)ethyl]-3-methoxy-4-piperidiny]-2-methoxybenzamide | NC1=CC(=C(C(=O)N[C@@H]2[C@@H](CN(CC2)CCN2C(NC3=CC=CC=C3C2=O)=O)OC)C=C1Cl)OC | C24H28ClN5O5
